US04710510
7,7-Dimethyl-2-phenyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
1.0 g. palladium/charcoal (10%) were introduced into 10.0 g. (30.7 mmol) 6-benzoylamino-5-nitro-3,3-dimethylindolin-2-one in 250 ml. glacial acetic acid. This mixture was hydrogenated in a shaking bomb at ambient temperature and normal pressure. After the take up of hydrogen had ceased, the solution was separated from the catalyst, slowly evaporated at 60° C. and the residue taken up in water and neutralised with 2N aqueous ammonia solution. The precipitate was filtered off with suction and recrystallised from methylene chloride. There were obtained 6.9 g. (81% of theory) of the title compound; m.p. 195°-220° C.

reactant | 6-benzoylamino-5-nitro-3,3-dimethylindolin-2-one | 30.7 mmol | C(C1=CC=CC=C1)(=O)NC1=C(C=C2C(C(NC2=C1)=O)(C)C)[N+](=O)[O-] | C17H15N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium/charcoal | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7,7-Dimethyl-2-phenyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)C3=CC=CC=C3)C=C21)=O)C | C17H15N3O
